US06730417B2
Synthesis of 2,7-dibromo-9,9-di-n-octylfluorene:
This compound was prepared from 2,7-dibromofluorene and n-octyl bromide, using a similar procedure as described in Example III. The product was obtained in an 85% yield as colorless crystals.

reactant | 2,7-dibromofluorene | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | n-octyl bromide | C(CCCCCCC)Br | C8H17Br
product | 2,7-dibromo-9,9-di-n-octylfluorene | 85% yield | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
